US06008213
Preparation of (±)-10,11-dihydro-3-[[[2-(2-pyridylamino)ethyl]amino]carbonyl]-5H-dibenzo[a,d]cycloheptene-10-acetic acid
A solution of ethyl (±)-10,11-dihydro-3-[[[2-(2-pyridylamino)ethyl]amino]carbonyl]-5H-dibenzo[a,d]cycloheptene-10-acetate (199.1 mg, 0.45 mmole) and 1.0 N NaOH (0.54 mL, 0.54 mmole) in absolute EtOH (4 mL) was warmed in an oil bath set at 45° C. After 23 hr, the reaction was concentrated and the residue was purified by ODS chromatography (gradient: 30% MeOH/H2O then 40% MeOH/H2O). Concentration and lyophilization gave the title compound (95.8 mg, 46%) as a nearly colorless powder: HPLC (PRP-1®, 30% CH3CN/H2O containing 0.1% TFA) K' =2.0; 1H NMR (400 MHz, CD3OD) δ 7.92 (app. d, J=4.2 Hz, 1 H), 7.61 (d, J=1.8 Hz, 1 H), 7.53 (dd, J=7.9, 1.8 Hz, 1 H), 7.38-7.47 (m, 1 H), 7.01-7.24 (m, 5 H), 6.56 (d, J=7.9 Hz, 1 H), 6.50-6.60 (m, 1 H), 4.34 (d, J=14.9 Hz, 1 H), 3.97 (d, J=14.9 Hz, 1 H), 3.78-3.89 (m, 1 H), 3.44-3.61 (m, 4 H), 3.39 (dd, J=15.4, 4.4 Hz, 1 H), 3.00 (dd, J=15.4, 10.2 Hz, 1 H), 2.61 (dd, J=14.9, 5.1 Hz, 1 H), 2.43 (dd, J=14.9, 9.5 Hz, 1 H); MS (ES) m/e 416 (M+H)+. Anal. Calcd for C25H24N3O3Na.1.33 H2O: C, 65.07; H, 5.82; N, 9.11. Found: C, 65.02; H, 5.62; N, 9.17.

reactant | ethyl (±)-10,11-dihydro-3-[[[2-(2-pyridylamino)ethyl]amino]carbonyl]-5H-dibenzo[a,d]cycloheptene-10-acetate | 0.45 mmole, 199.1 mg | N1=C(C=CC=C1)NCCNC(=O)C=1C=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1 | C27H29N3O3
reactant | NaOH | 0.54 mmole, 1.0 N, 0.54 mL | [OH-].[Na+]
solvent | EtOH | 4 mL | CCO | C2H6O
product | (±)-10,11-dihydro-3-[[[2-(2-pyridylamino)ethyl]amino]carbonyl]-5H-dibenzo[a,d]cycloheptene-10-acetic acid | 95.8 mg, 46% | N1=C(C=CC=C1)NCCNC(=O)C=1C=CC2=C(CC3=C(C(C2)CC(=O)O)C=CC=C3)C1 | C25H25N3O3
